US07485634B2
Methyl iodide (15 mL) was added to a stirred mixture of 6-benzyloxygramine (10 g, 35.66 mmol) in dry benzene (150 mL) at ambient temperature. The mixture was stirred at ambient temperature for 30 minutes, then allowed to stand in the dark overnight. The solid was collected by filtration, then dried in high vaccum to give (6-benzyloxy-1H-indol-3-ylmethyl)trimethylammonium iodide (17.5 g).

reactant | Methyl iodide | 15 mL | CI | CH3I
reactant | 6-benzyloxygramine | 35.66 mmol, 10 g | CN(C)CC1=CNC2=C1C=CC(=C2)OCC3=CC=CC=C3 | C18H20N2O
solvent | benzene | 150 mL | C1=CC=CC=C1 | C6H6
product | (6-benzyloxy-1H-indol-3-ylmethyl)trimethylammonium iodide | 17.5 g | [I-].C(C1=CC=CC=C1)OC1=CC=C2C(=CNC2=C1)C[N+](C)(C)C | InChI=1S/C19H23N2O.HI/c1-21(2,3)13-16-12-20-19-11-17(9-10-18(16)19)22-14-15-7-5-4-6-8-15;/h4-12,20H,13-14H2,1-3H3;1H/q+1;/p-1
